US08669234B2
A mixture of 2-{5-[4-(5-Bromo-thiophen-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (0.4807 g), bis(pinacolato)diboron (0.54 g), Pd(PPh3)4 (0.058) and potassium acetate (0.257 g) in 1,4-dioxane was heated at 90° C. for 16 hours. Reaction mixture was cooled to ambient temperatures and diluted with ethyl acetate. Organic layer was washed with brine, dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 20 to 80% ethyl acetate/hexanes) to give 2-(5-{4-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiophen-2-yl]-phenyl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.3752 g) as a brown foam: LCMS-ESI+: calc'd for C28H37BN3O4S: 522.48 (M+H+). Found: 521.9 (M+H+).

reactant | 2-{5-[4-(5-Bromo-thiophen-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.4807 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C=1SC(=CC1)Br | C22H24BrN3O2S
reactant | bis(pinacolato)diboron | 0.54 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.257 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(5-{4-[5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-thiophen-2-yl]-phenyl}-1H-imidazol-2-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.3752 g | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C=1SC(=CC1)B1OC(C(O1)(C)C)(C)C | C28H36BN3O4S
